US04725680
(a) Synthesis of 1,2,2,2-tetrachloroethyl N-methylcarbamate
34.7 ml (0.4 mmol) of methylamine (in 40% strength aqueous solution) are added dropwise to a solution maintained at 0° C. of 49.4 g (0.2 mole) of 1,2,2,2-tetrachloroethyl chloroformate in dichloromethane (150 ml). The mixture is then stirred for 2 hours at room temperature. The organic phase is washed with 2×100 ml of water and dried over magnesium sulphate.

reactant | methylamine | 0.4 mmol, 34.7 ml | CN | CH5N
reactant | 1,2,2,2-tetrachloroethyl chloroformate | 0.2 mole, 49.4 g | ClC(=O)OC(C(Cl)(Cl)Cl)Cl | C3HCl5O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1,2,2,2-tetrachloroethyl N-methylcarbamate | CNC(OC(C(Cl)(Cl)Cl)Cl)=O | C4H5Cl4NO2
